US07265131B2
A mixture of 2-carboxymethyl-3-chlorobenzoic acid (1.91 g, 8.9 mmol) and 2,4-dimethylbenzylamine (1.35 mL, 9.6 mmol) was placed in a vented vial and heated in an oil bath maintained at 180° C. After heating for 64 hours the reaction was allowed to cool to ambient temperature, then taken up in a mixture of CH2Cl2, acetone, and methanol. The solution was mixed with silica gel and then concentrated under reduced pressure to afford a free flowing solid. This solid was loaded onto the top of a silica gel column and eluted with a gradient from 0% to 14% ethyl acetate/hexane to afford 5-chloro-2-(2,4-dimethylbenzyl)-4H-isoquinoline-1,3-dione (2.03 g, 73% yield) as a yellow solid: 1H-NMR (400 MHz, CDCl3): δ 8.17 (1H, dd, J=7.8, 1.3 Hz), 7.65 (1H, dd, J=7.8, 1.3 Hz), 7.42 (1H, app. t, J=7.8 Hz), 6.98 (1H, br s), 6.96-6.92 (1H, m), 6.91-6.87 (1H, m), 5.16 (2H, s), 4.09 (2H, s), 2.44 (3H, s), 2.26 (3H, s) ppm.

reactant | 2-carboxymethyl-3-chlorobenzoic acid | 8.9 mmol, 1.91 g | C(=O)(O)CC1=C(C(=O)O)C=CC=C1Cl | C9H7ClO4
reactant | 2,4-dimethylbenzylamine | 9.6 mmol, 1.35 mL | CC1=C(CN)C=CC(=C1)C | C9H13N
reactant | acetone | CC(=O)C | C3H6O
reactant | methanol | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-(2,4-dimethylbenzyl)-4H-isoquinoline-1,3-dione | 2.03 g, 73% yield | ClC1=C2CC(N(C(C2=CC=C1)=O)CC1=C(C=C(C=C1)C)C)=O | C18H16ClNO2
